US09315491B2
4-(2-Chloro-5-(methylthio)pyrimidin-4-yl)morpholine
A solution of the 2,4-dichloro-5-(methylthio)pyrimidine (1.16 g, 6 mmole) in acetone (10 ml) at 0° C. containing Na2CO3 (1.1 eq, 6.6 mmole, 0.7 g) was treated dropwise with a solution of morpholine (1.0 eq, 6.6 mmole, 0.6 ml) in acetone (2 ml) and stirred for 1 hr at 0° C. TLC (EA:Hex=1:2, Rf=0.6) showed completion of the reaction to give two products. The acetone was removed in vacuo, the residue was partitioned between water and EA, and the organic layer was dried (MgSO4) and evaporated in vacuo. Column chromatography (EA/Hex=1/6) gave the product (700 mg, 47%).

reactant | 2,4-dichloro-5-(methylthio)pyrimidine | 6 mmole, 1.16 g | ClC1=NC=C(C(=N1)Cl)SC | C5H4Cl2N2S
reactant | Na2CO3 | 6.6 mmole, 0.7 g, 1.1 eq | C(=O)([O-])[O-].[Na+].[Na+]
reactant | morpholine | 6.6 mmole, 0.6 ml, 1.0 eq | N1CCOCC1 | C4H9NO
reactant | EA | CC(OCC)=O | C4H8O2
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 4-(2-Chloro-5-(methylthio)pyrimidin-4-yl)morpholine | 700 mg, 47% | ClC1=NC=C(C(=N1)N1CCOCC1)SC | C9H12ClN3OS
